US09353107B2
Step-i: 5-Bromo-3-(1-(2-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine
5-Bromo-3-iodo-1-tosyl-1H-pyrrolo[2,3-b]pyridine (Intermediate-1) (350 mg, 0.83 mmol) and 1-(2-fluorobenzyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (Intermediate-2) (301 mg, 0.99 mmol) were added to a solution of toluene/ethanol/water (5/5/2.5 ml) previously purged with argon (10 min). The reaction mixture was purged with argon for a further 15 mins, followed by the addition of potassium carbonate (230 mg, 1.6 mmol) and Pd(PPh3)4 (48 mg, 0.0415 mmol). The resulting mixture was heated to reflux at 80° C. overnight. The reaction was monitored by TLC (50% ethylacetate in hexane). The reaction mixture was cooled and diluted with ethyl acetate (50 ml) and washed with water (2×50 ml). The organic layer was dried over Na2SO4, and concentrated under reduced pressure to afford crude product. Purification by column chromatography on silica gel (20% ethyl acetate in hexane) afforded 285 mg (43.64% yield) of titled compound. MS: m/z=527.0 (M+1).

reactant | 5-Bromo-3-iodo-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 0.83 mmol, 350 mg | BrC=1C=C2C(=NC1)N(C=C2I)S(=O)(=O)C2=CC=C(C)C=C2 | C14H10BrIN2O2S
reactant | 1-(2-fluorobenzyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.99 mmol, 301 mg | FC1=C(CN2N=CC(=C2)B2OC(C(O2)(C)C)(C)C)C=CC=C1 | C16H20BFN2O2
reactant | toluene ethanol water | 2.5 ml | C1(=CC=CC=C1)C.C(C)O.O
reactant | potassium carbonate | 1.6 mmol, 230 mg | C([O-])([O-])=O.[K+].[K+]
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 0.0415 mmol, 48 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 5-Bromo-3-(1-(2-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 285 mg, 43.64% yield | BrC=1C=C2C(=NC1)N(C=C2C=2C=NN(C2)CC2=C(C=CC=C2)F)S(=O)(=O)C2=CC=C(C)C=C2 | C24H18BrFN4O2S
